US08211904B2
Step 2: (3-Isopropoxybenzyl)amine
A 500 mL Parr bottle was flushed with argon, then 3-isopropoxybenzonitrile (32 g, 198 mmol) was added and diluted with 150 mL EtOH. The reaction was charged with ˜2 mL of an aq. slurry of Raney Nickel, then affixed to a Parr hydrogenation apparatus. The flask was evacuated and flushed with N2 three times before being charged with 40 psi H2. The flask was allowed to shake for 3 hr over which time the flask was recharged to 40 psi and consumption of gas ceased. HPLC/MS showed no starting material so the catalyst was carefully filtered without drying and washed with EtOH. The filtrate was concentrated and purified on an Isco automated system affixed with a Biotage Flash 40(M) cartridge eluted with 0-5% (MeOH+0.5M NH3) in CH2Cl2 over 30 min at 40 mL/min to give the product.

reactant | 3-isopropoxybenzonitrile | 198 mmol, 32 g | C(C)(C)OC=1C=C(C#N)C=CC1 | C10H11NO
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | (3-Isopropoxybenzyl)amine | C(C)(C)OC=1C=C(CN)C=CC1 | C10H15NO
